US07585875B2
To a solution of 600 mg (4.6 mmol) of N-benzyl-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-amine in 10 ml of acetic acid was added 100 mg of PtO2 in hydrogenation bottle. H2 was applied at 50 psi for 4 hours. The reaction was worked up by filtration and dilution with 0.1N HCl to provide 503 mg of crude product. Purification by C18 preparative HPLC furnished 400 mg of purified 1-(2-isopropyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-amine after lyophilization. Compound 1011.

reactant | N-benzyl-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-amine | 4.6 mmol, 600 mg | C(C1=CC=CC=C1)NC(C(C)C)C=1C(=NN2C1C=CC=C2)C(C)C | C21H27N3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 100 mg | O=[Pt]=O
product | 1-(2-isopropyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-amine | 400 mg | C(C)(C)C1=NN2C(CCCC2)=C1C(C(C)C)N | C14H25N3
